US06919363B2
1-[4-(4-Nitrophenoxy)phenyl]-1H-[1,2,4]triazole
A mixture of 1-fluoro-4-nitrobenzene (0.17 mL, 1.6 mmol), 4-{[1,2,4]triazol-1-yl}phenol (0.26 g, 1.58 mmol), and potassium carbonate (1.69 g, 12.2 mmol) in DMF was refluxed overnight. The reaction was cooled to room temperature, then partitioned between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with an aqueous sodium hydroxide solution (2N), water (2 times), dried over sodium sulfate, filtered, and evaporated under reduced pressure to give a yellow solid. Purification by column chromatography (silica gel; 1:1 hexane/ethyl acetate) and recrystallization from chloroform/hexane afforded 165 mg (37%) of the title compound as a yellow solid, mp 131-132° C. 1H-NMR (CDCl3): δ 8.55 (s, 1H), 8.25 (d, J=9 Hz, 2H), 8.12 (s, 1H), 7.75 (d, J=9 Hz, 2H), 7.24 (d, J=9 Hz, 2H), 7.08 (d, J=9 Hz, 2H).

reactant | 1-fluoro-4-nitrobenzene | 1.6 mmol, 0.17 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-{[1,2,4]triazol-1-yl}phenol | 1.58 mmol, 0.26 g | N1(N=CN=C1)C1=CC=C(C=C1)O | C8H7N3O
reactant | potassium carbonate | 12.2 mmol, 1.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-(4-Nitrophenoxy)phenyl]-1H-[1,2,4]triazole | 165 mg, 37% | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)N2N=CN=C2)C=C1 | C14H10N4O3
